US07371869B2
To a solution of diphosgene (3.7 μL, 0.03 mmol) in a 1:1 v/v mixture of dichloromethane and toluene (0.5 mL total volume) was added dropwise with stirring a solution of 2-[2-(S)-(2-amino-2-phenyl-acetylamino)-3-phenyl-propionylamino]-thiazole-4-carboxylic acid amide (21.5 mg, 0.051 mmol) and diisopropylethylamine (24 μL, 0.14 mmol) in a 1:1 v/v mixture of dichloromethane and toluene (1 mL total volume). After stirring for 30 minutes, methanol (0.1 mL) was added and the reaction mixture concentrated in vacuo. The residue was purified by reverse phase high performance liquid chromatography using a C-18 stationary phase gradient eluted with a water/acetonitrile mixture containing 0.1% v/v trifluoroacetic acid in both components of the solvent system. After lyophilization 2-[(S)-2-(2,5-dioxo-4-phenyl-imidazolidin-1-yl)-3-phenyl-propionylamino]-thiazole-4-carboxylic acid amide was obtained as an amorphous colorless solid (4.0 mg, 18%).

reactant | diphosgene | 0.03 mmol, 3.7 μL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 2-[2-(S)-(2-amino-2-phenyl-acetylamino)-3-phenyl-propionylamino]-thiazole-4-carboxylic acid amide | 0.051 mmol, 21.5 mg | NC(C(=O)N[C@H](C(=O)NC=1SC=C(N1)C(=O)N)CC1=CC=CC=C1)C1=CC=CC=C1 | C21H21N5O3S
reactant | diisopropylethylamine | 0.14 mmol, 24 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 0.1 mL | CO | CH4O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(S)-2-(2,5-dioxo-4-phenyl-imidazolidin-1-yl)-3-phenyl-propionylamino]-thiazole-4-carboxylic acid amide | O=C1N(C(C(N1)C1=CC=CC=C1)=O)[C@H](C(=O)NC=1SC=C(N1)C(=O)N)CC1=CC=CC=C1 | C22H19N5O4S
